* NGSPICE file created from banba_layout.ext - technology: gf180mcuB

.subckt banba_layout VDD VREF VSS
X0 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X1 XAMP_NMIR XAMP_NMIR VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X2 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X3 CTRL XSTART_KICK VSS VSS nfet_03v3 ad=0.4p pd=2.6u as=0.4p ps=2.6u w=0.5u l=4u
X4 VB CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X5 XSTART_RDET_series_10 XSTART_RDET_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X6 XSTART_RPULL_series_18 XSTART_RPULL_series_19 VSS ppolyf_u_1k r_width=1u r_length=100u
X7 XSTART_RDET_series_4 XSTART_RDET_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X8 XAMP_RBIAS_series_2 XAMP_RBIAS_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X9 XSTART_RPULL_series_12 XSTART_RPULL_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X10 XAMP_RBIAS_series_8 XAMP_RBIAS_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X11 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X12 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X13 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X14 VREF VSS VSS ppolyf_u_1k r_width=1u r_length=50.15u
X15 XSTART_RPULL_series_6 XSTART_RPULL_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X16 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X17 XAMP_TAIL XAMP_PBIAS VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X18 XSTART_RDET_series_12 XSTART_RDET_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X19 VA CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X20 XSTART_RPULL_series_14 XSTART_RPULL_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X21 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X22 XSTART_RPULL_series_8 XSTART_RPULL_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X23 XSTART_RDET_series_6 XSTART_RDET_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X24 XAMP_RBIAS_series_4 XAMP_RBIAS_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X25 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X26 XSTART_DET CTRL VDD VDD pfet_03v3 ad=0.8p pd=3.6u as=0.8p ps=3.6u w=1u l=8u
X27 VDD XSTART_RPULL_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X28 VSS VSS VA pnp_05p00x05p00
**devattr s=1000000,4000
X29 VREF CTRL VDD VDD pfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=4u
X30 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X31 XSTART_RDET_series_14 XSTART_RDET_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X32 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X33 XSTART_RDET_series_8 XSTART_RDET_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X34 XSTART_RPULL_series_16 XSTART_RPULL_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X35 XSTART_DET XSTART_RDET_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X36 XSTART_RPULL_series_2 XSTART_RPULL_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X37 XSTART_RPULL_series_10 XSTART_RPULL_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X38 XAMP_RBIAS_series_6 XAMP_RBIAS_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X39 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X40 XSTART_RDET_series_8 XSTART_RDET_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X41 XSTART_RPULL_series_18 XSTART_RPULL_series_17 VSS ppolyf_u_1k r_width=1u r_length=100u
X42 XSTART_RDET_series_2 XSTART_RDET_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X43 VSS XSTART_RDET_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X44 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X45 VA VSS VSS ppolyf_u_1k r_width=1u r_length=100u
X46 XAMP_NMIR VA XAMP_TAIL VDD pfet_03v3 ad=19.2p pd=49.6u as=19.2p ps=49.6u w=24u l=2u
X47 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X48 XAMP_RBIAS_series_8 XAMP_RBIAS_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X49 XSTART_RPULL_series_12 XSTART_RPULL_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X50 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X51 XAMP_PBIAS XAMP_RBIAS_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X52 XSTART_RPULL_series_4 XSTART_RPULL_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X53 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X54 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X55 XAMP_GAIN XAMP_NMIR VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X56 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X57 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X58 XSTART_RDET_series_10 XSTART_RDET_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
X59 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X60 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X61 XSTART_KICK XSTART_RPULL_series_19 VSS ppolyf_u_1k r_width=1u r_length=100u
X62 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X63 XSTART_RDET_series_4 XSTART_RDET_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X64 XAMP_RBIAS_series_2 XAMP_RBIAS_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X65 XSTART_RPULL_series_6 XSTART_RPULL_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X66 VSS XAMP_RBIAS_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X67 CTRL XAMP_PBIAS VDD VDD pfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=8u
X68 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X69 XSTART_KICK XSTART_DET VSS VSS nfet_03v3 ad=6.4p pd=17.6u as=6.4p ps=17.6u w=8u l=1u
X70 XSTART_RDET_series_12 XSTART_RDET_series_13 VSS ppolyf_u_1k r_width=1u r_length=100u
X71 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X72 XAMP_GAIN VB XAMP_TAIL VDD pfet_03v3 ad=19.2p pd=49.6u as=19.2p ps=49.6u w=24u l=2u
X73 XSTART_RDET_series_6 XSTART_RDET_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X74 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X75 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X76 XSTART_RPULL_series_14 XSTART_RPULL_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X77 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X78 XSTART_RPULL_series_2 XSTART_RPULL_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X79 VSS VSS VE2 pnp_05p00x05p00
**devattr s=1000000,4000
X80 XAMP_RBIAS_series_4 XAMP_RBIAS_series_5 VSS ppolyf_u_1k r_width=1u r_length=100u
X81 XSTART_RPULL_series_8 XSTART_RPULL_series_9 VSS ppolyf_u_1k r_width=1u r_length=100u
X82 VB VSS VSS ppolyf_u_1k r_width=1u r_length=100u
X83 XAMP_PBIAS XAMP_PBIAS VDD VDD pfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=4u
X84 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X85 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X86 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X87 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X88 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X89 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X90 XAMP_GAIN CTRL cap_mim_2f0_m3m4_noshield c_width=44.72u c_length=44.72u
X91 VB VE2 VSS ppolyf_u_1k r_width=1u r_length=10.85u
X92 XSTART_RDET_series_14 XSTART_RDET_series_15 VSS ppolyf_u_1k r_width=1u r_length=100u
X93 XSTART_RPULL_series_16 XSTART_RPULL_series_17 VSS ppolyf_u_1k r_width=1u r_length=100u
X94 XSTART_RDET_series_2 XSTART_RDET_series_1 VSS ppolyf_u_1k r_width=1u r_length=100u
X95 CTRL XAMP_GAIN VSS VSS nfet_03v3 ad=3.2p pd=9.6u as=3.2p ps=9.6u w=4u l=2u
X96 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X97 XAMP_RBIAS_series_6 XAMP_RBIAS_series_7 VSS ppolyf_u_1k r_width=1u r_length=100u
X98 XSTART_RPULL_series_4 XSTART_RPULL_series_3 VSS ppolyf_u_1k r_width=1u r_length=100u
X99 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X100 VREF VSS cap_mim_2f0_m3m4_noshield c_width=91.5u c_length=91.5u
X101 VDD CTRL cap_mim_2f0_m3m4_noshield c_width=96.67u c_length=96.67u
X102 XSTART_RPULL_series_10 XSTART_RPULL_series_11 VSS ppolyf_u_1k r_width=1u r_length=100u
C0 XSTART_KICK XSTART_RPULL_series_14 0.00565f
C1 XSTART_RPULL_series_6 XSTART_RPULL_series_4 0.00522f
C2 XSTART_RDET_series_8 XSTART_RDET_series_6 0.00522f
C3 XSTART_RDET_series_2 VDD 0
C4 XSTART_RPULL_series_18 XSTART_RPULL_series_16 0.00522f
C5 XSTART_KICK XAMP_RBIAS_series_3 0.003f
C6 XSTART_RPULL_series_7 XSTART_RPULL_series_5 0.00522f
C7 XSTART_RDET_series_2 XSTART_DET 0.00814f
C8 XSTART_KICK VE2 0.37028f
C9 XSTART_RDET_series_9 XSTART_RDET_series_7 0.00522f
C10 XSTART_RPULL_series_19 XSTART_RPULL_series_17 0.00522f
C11 XSTART_RPULL_series_2 VDD 0.00814f
C12 VB CTRL 0.95464f
C13 XSTART_KICK XSTART_RPULL_series_16 0.00565f
C14 XAMP_PBIAS VB 3.60943f
C15 XSTART_RDET_series_4 VDD 0
C16 VB XAMP_TAIL 1.44849f
C17 VB VDD 3.08737f
C18 VE2 XAMP_GAIN 1.02418f
C19 VE2 XAMP_NMIR 0.45655f
C20 VE2 VA 1.57474f
C21 XSTART_RDET_series_6 VDD 0
C22 XAMP_RBIAS_series_6 XAMP_RBIAS_series_4 0.00522f
C23 VE2 VREF 4.25544f
C24 XSTART_KICK XSTART_RPULL_series_18 0.01855f
C25 XSTART_RPULL_series_8 XSTART_RPULL_series_6 0.00522f
C26 XSTART_RDET_series_10 XSTART_RDET_series_8 0.00522f
C27 XSTART_KICK XAMP_RBIAS_series_5 0.003f
C28 XSTART_RPULL_series_9 XSTART_RPULL_series_7 0.00522f
C29 XSTART_RDET_series_8 VDD 0
C30 XAMP_RBIAS_series_7 XAMP_RBIAS_series_5 0.00522f
C31 XSTART_RDET_series_11 XSTART_RDET_series_9 0.00522f
C32 XSTART_KICK XAMP_RBIAS_series_7 0.003f
C33 XSTART_KICK XAMP_GAIN 0.38352f
C34 XSTART_RDET_series_10 VDD 0
C35 XSTART_KICK VA 0.37346f
C36 XAMP_PBIAS CTRL 0.87264f
C37 XSTART_RPULL_series_10 XSTART_RPULL_series_8 0.00522f
C38 XSTART_KICK VREF 0.36323f
C39 XAMP_TAIL CTRL 0.35791f
C40 VB VE2 0.1132f
C41 CTRL VDD 41.7781f
C42 XAMP_PBIAS XAMP_TAIL 2.8715f
C43 XSTART_KICK XAMP_RBIAS_series_9 0.003f
C44 XAMP_PBIAS VDD 6.35784f
C45 XAMP_RBIAS_series_8 XAMP_RBIAS_series_6 0.00522f
C46 XAMP_NMIR XAMP_GAIN 2.66296f
C47 XAMP_TAIL VDD 3.50353f
C48 XSTART_RPULL_series_11 XSTART_RPULL_series_9 0.00522f
C49 XSTART_DET CTRL 0.49804f
C50 VA XAMP_GAIN 0.51094f
C51 XAMP_PBIAS XSTART_DET 1.96692f
C52 XAMP_RBIAS_series_1 CTRL 0.00684f
C53 XAMP_GAIN VREF 0.48555f
C54 XAMP_RBIAS_series_9 XAMP_RBIAS_series_7 0.00522f
C55 XSTART_DET XAMP_TAIL 1.7243f
C56 VA XAMP_NMIR 1.59672f
C57 XSTART_DET VDD 0.31394f
C58 XAMP_NMIR VREF 0.46691f
C59 XSTART_RDET_series_12 XSTART_RDET_series_10 0.00522f
C60 VA VREF 0.24063f
C61 XSTART_KICK XSTART_RPULL_series_2 0.00565f
C62 XSTART_RDET_series_12 VDD 0
C63 XSTART_RPULL_series_12 XSTART_RPULL_series_10 0.00522f
C64 XAMP_RBIAS_series_2 XAMP_PBIAS 0.00814f
C65 XSTART_RPULL_series_13 XSTART_RPULL_series_11 0.00522f
C66 XSTART_RDET_series_13 XSTART_RDET_series_11 0.00522f
C67 XAMP_RBIAS_series_3 CTRL 0.00684f
C68 XSTART_RDET_series_3 XSTART_RDET_series_1 0.00522f
C69 XSTART_KICK XSTART_RPULL_series_4 0.00565f
C70 VB XAMP_GAIN 1.31535f
C71 VE2 CTRL 0.7236f
C72 XAMP_PBIAS VE2 0.5748f
C73 VE2 XAMP_TAIL 0.37982f
C74 VB XAMP_NMIR 0.12274f
C75 VE2 VDD 2.71432f
C76 VB VA 1.3257f
C77 XAMP_RBIAS_series_3 XAMP_RBIAS_series_1 0.00522f
C78 VB VREF 0.23884f
C79 VE2 XSTART_DET 0.34437f
C80 XSTART_KICK XSTART_RPULL_series_6 0.00565f
C81 XSTART_RDET_series_14 VDD 0
C82 XSTART_RPULL_series_14 XSTART_RPULL_series_12 0.00522f
C83 XSTART_RPULL_series_3 XSTART_RPULL_series_1 0.00522f
C84 XSTART_RDET_series_4 XSTART_RDET_series_2 0.00522f
C85 XSTART_RPULL_series_15 XSTART_RPULL_series_13 0.00522f
C86 XAMP_RBIAS_series_5 CTRL 0.00684f
C87 XSTART_KICK XSTART_RPULL_series_8 0.00565f
C88 XSTART_RDET_series_5 XSTART_RDET_series_3 0.00522f
C89 XSTART_RDET_series_14 XSTART_RDET_series_12 0.00522f
C90 XSTART_KICK CTRL 0.57071f
C91 XSTART_KICK XAMP_PBIAS 0.17168f
C92 XSTART_KICK XAMP_TAIL 0.13254f
C93 XSTART_KICK VDD 0.207f
C94 XAMP_RBIAS_series_7 CTRL 0.00684f
C95 XSTART_KICK XSTART_RPULL_series_10 0.00565f
C96 XSTART_RPULL_series_4 XSTART_RPULL_series_2 0.00522f
C97 CTRL XAMP_GAIN 4.26002f
C98 XSTART_KICK XSTART_DET 4.68133f
C99 XAMP_PBIAS XAMP_GAIN 0.89368f
C100 XSTART_RPULL_series_16 XSTART_RPULL_series_14 0.00522f
C101 XSTART_KICK XAMP_RBIAS_series_1 0.003f
C102 XAMP_RBIAS_series_4 XAMP_RBIAS_series_2 0.00522f
C103 XAMP_TAIL XAMP_GAIN 0.96692f
C104 CTRL XAMP_NMIR 0.52226f
C105 XSTART_RDET_series_6 XSTART_RDET_series_4 0.00522f
C106 XAMP_GAIN VDD 0.91007f
C107 XAMP_PBIAS XAMP_NMIR 1.34772f
C108 XSTART_RPULL_series_5 XSTART_RPULL_series_3 0.00522f
C109 VA CTRL 3.13491f
C110 XAMP_TAIL XAMP_NMIR 0.91543f
C111 XAMP_PBIAS VA 0.56851f
C112 CTRL VREF 0.51775f
C113 XAMP_NMIR VDD 1.10915f
C114 XSTART_RPULL_series_17 XSTART_RPULL_series_15 0.00522f
C115 VA XAMP_TAIL 1.48956f
C116 XSTART_RDET_series_15 XSTART_RDET_series_13 0.00522f
C117 XAMP_PBIAS VREF 0.5748f
C118 XSTART_DET XAMP_GAIN 0.36529f
C119 VA VDD 3.85923f
C120 XSTART_RDET_series_7 XSTART_RDET_series_5 0.00522f
C121 XAMP_RBIAS_series_9 CTRL 0.00684f
C122 XAMP_TAIL VREF 0.37982f
C123 XSTART_KICK XSTART_RPULL_series_12 0.00565f
C124 VDD VREF 0.75003f
C125 VA XSTART_DET 0.34755f
C126 XSTART_DET VREF 0.33733f
C127 XAMP_RBIAS_series_5 XAMP_RBIAS_series_3 0.00522f
C128 CTRL VSS 0.47601p
C129 XAMP_TAIL VSS 90.65318f
C130 XSTART_RDET_series_1 VSS 0.79894f
C131 XSTART_RDET_series_2 VSS 0.76813f
C132 XSTART_RDET_series_3 VSS 0.78892f
C133 XSTART_RDET_series_4 VSS 0.76821f
C134 XSTART_RDET_series_5 VSS 0.78892f
C135 VE2 VSS 1.4567p
C136 XSTART_RDET_series_6 VSS 0.76821f
C137 XSTART_RDET_series_7 VSS 0.78892f
C138 XSTART_RDET_series_8 VSS 0.76821f
C139 XSTART_RDET_series_9 VSS 0.78892f
C140 XSTART_RDET_series_10 VSS 0.76821f
C141 XSTART_RDET_series_11 VSS 0.78892f
C142 XAMP_RBIAS_series_1 VSS 0.79894f
C143 XSTART_RDET_series_12 VSS 0.76821f
C144 XAMP_RBIAS_series_2 VSS 0.76813f
C145 XSTART_RDET_series_13 VSS 0.78892f
C146 XAMP_RBIAS_series_3 VSS 0.78892f
C147 XSTART_RDET_series_14 VSS 0.78103f
C148 XAMP_RBIAS_series_4 VSS 0.76821f
C149 XSTART_RDET_series_15 VSS 0.79894f
C150 XAMP_RBIAS_series_5 VSS 0.78892f
C151 XAMP_RBIAS_series_6 VSS 0.76821f
C152 XAMP_RBIAS_series_7 VSS 0.78892f
C153 XAMP_RBIAS_series_8 VSS 0.78103f
C154 XAMP_RBIAS_series_9 VSS 0.79894f
C155 XSTART_RPULL_series_1 VSS 0.79894f
C156 XSTART_RPULL_series_2 VSS 0.76248f
C157 XSTART_RPULL_series_3 VSS 0.78892f
C158 XSTART_RPULL_series_4 VSS 0.76256f
C159 XSTART_RPULL_series_5 VSS 0.78892f
C160 XSTART_RPULL_series_6 VSS 0.76256f
C161 XSTART_RPULL_series_7 VSS 0.78892f
C162 XSTART_RPULL_series_8 VSS 0.76256f
C163 XSTART_RPULL_series_9 VSS 0.78892f
C164 XSTART_RPULL_series_10 VSS 0.76256f
C165 XSTART_RPULL_series_11 VSS 0.78892f
C166 XSTART_RPULL_series_12 VSS 0.76256f
C167 XSTART_RPULL_series_13 VSS 0.78892f
C168 XSTART_RPULL_series_14 VSS 0.76256f
C169 XSTART_RPULL_series_15 VSS 0.78892f
C170 XSTART_RPULL_series_16 VSS 0.76256f
C171 XSTART_RPULL_series_17 VSS 0.78892f
C172 XSTART_RPULL_series_18 VSS 0.76248f
C173 XSTART_RPULL_series_19 VSS 0.79894f
C174 XSTART_KICK VSS 0.18785p
.ends

